US07557213B2
Preparation of 3-(5-Methyl-isoxazole-3-carbonyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one
To the solution of 3-Iodo-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one (300 mg, 0.82 mmol, 1.2 eq) in THF (2 ml), was added isopropylmagnesium chloride in THF (0.88 mL, 1.76 mmol, 2.1 eq) slowly at −40° C. The reaction mixture was warmed to room temperature and stirred for 60 min, followed by the addition of 5-Methyl-isoxazole-3-carboxylic acid methoxy-methyl-amide (116 mg, 0.0.68 mmol, 1 eq). The mixture was stirred overnight, quenched with water and purified with HPLC to give the desired product (25 mg). LCMS observed for (M+H)+: 360.1.

reactant | 3-Iodo-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | 0.82 mmol, 300 mg, 1.2 eq | IC1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C | C16H13IN2O
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 5-Methyl-isoxazole-3-carboxylic acid methoxy-methyl-amide | 116 mg, 1 eq | CON(C(=O)C1=NOC(=C1)C)C | C7H10N2O3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1.76 mmol, 0.88 mL, 2.1 eq | C1CCOC1 | C4H8O
product | 3-(5-Methyl-isoxazole-3-carbonyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | 25 mg | CC1=CC(=NO1)C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C | C21H17N3O3
